US04937332
To a cooled (0° C.) solution of 18.3 g (33.0 mM) of 4-methoxybenzyl 7β-phenylacetamido-3-[(Z)-2-methoxycarbonylvinylthio]-3-cephem-4-carboxylate in 200 ml of dry dichloromethane were added 7.82 g (99.0 mM) of pyridine and 13.7 g (65.8 mM) of phosphorus pentachloride, and the reaction temperature was raised to room temperature for a period of 30 minutes, and the mixture was stirred at the same temperature for 1 hour. To the cooled (-50° C.) reaction solution was added 100 ml of dry methanol, and the mixture was stirred at -20° C. for 1 hour. Upon continued cooling of the reaction mixture to -50° C., 100 ml of water was added, and the mixture was stirred under ice-cooling for 40 minutes. The mixture was made weakly basic by addition of a saturated aqueous sodium bicarbonate solution, and extracted with 300 ml of ethyl acetate, and the extract was washed with 200 ml of a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was evaporated, and diethyl ether was added to the residue for powdering to give 10.6 g of 4-methoxybenzyl 7β-amino-3-[(Z)-2-methoxycarbonylvinylthio]-3-cephem-4-carboxylate.

reactant | 4-methoxybenzyl 7β-phenylacetamido-3-[(Z)-2-methoxycarbonylvinylthio]-3-cephem-4-carboxylate | 33.0 mM, 18.3 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)S\C=C/C(=O)OC)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C27H26N2O7S2
reactant | pyridine | 99.0 mM, 7.82 g | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | 65.8 mM, 13.7 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 4-methoxybenzyl 7β-amino-3-[(Z)-2-methoxycarbonylvinylthio]-3-cephem-4-carboxylate | 10.6 g | N[C@H]1[C@@H]2N(C(=C(CS2)S\C=C/C(=O)OC)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C19H20N2O6S2
